US05646173
A solution of 2 g of 2-(2-oxoethyl)-4-thiochromanone and 120 mg of p-toluenesulfonic acid in 100 ml of anhydrous toluene was heated on a water separator, A solution of 2.9 g of (RS)-1-amino-2-propanol in 20 ml of anhydrous toluene was added dropwise to the boiling solution over a period of 5 minutes. Subsequently, the mixture was boiled for an additional 35 minutes, during which the solvent was reduced to a volume of 20 ml. The cooled reaction mixture was purified by column chromatography on silica gel (ethyl acetate/toluene 1:1). There were obtained 1.8 g (76%) of (RS)-1-(1,4-dihydro-[1]benzothiopyrano[4,3-b]pyrrol-1-yl)-propan-2-ol as a pale brown solid which was used in the next reaction without further recrystallization.

reactant | 2-(2-oxoethyl)-4-thiochromanone | 2 g | O=CCC1SC2=CC=CC=C2C(C1)=O | C11H10O2S
reactant | water | O | H2O
reactant | (RS)-1-amino-2-propanol | 2.9 g | NCC(C)O | C3H9NO
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 120 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | (RS)-1-(1,4-dihydro-[1]benzothiopyrano[4,3-b]pyrrol-1-yl)-propan-2-ol | 1.8 g, 76% | N1(C2=C(C=C1)CSC1=C2C=CC=C1)CC(C)O | C14H15NOS
